US05672501
Triethylamine (13.4 ml, 100 mmol) was added dropwise to a stirred ice-cooled mixture of 1,2,4-triazole (6.22 g, 90 mmol) and phosphorous oxychloride (1.89 ml, 20 mmol) in 50 ml of anhydrous acetonitrile. To the resulting suspension the solution of 2',3',5'-tri-O-Benzoyl-6-methyl uridine (5.7 g, 10 mmol) in 30 ml of acetonitrile was added dropwise and the reaction mixture was stirred for 4 hours at room temperature. Then it was concentrated in vacuo to minimal volume (not to dryness). The residue was dissolved in chloroform and washed with water, saturated aq sodium bicarbonate and brine. The organic layer was dried over sodium sulfate and the solvent was removed in vacuo. The residue was dissolved in 100 ml of 1,4-dioxane and treated with 50 mL of 29% aq NH4OH overnight. The solvents were removed in vacuo. The residue was dissolved in the in the mixture of pyridine (60 mL) and methanol (10 mL), cooled to -15° C. and ice-cooled 2M aq solution of sodium hydroxide was added under stirring. The reaction mixture was stirred at -10° to -15° C. for additional 30 minutes and then neutralized to pH 7 with Dowex 50 (Py+). The resin was filtered off and washed with 200 mL of the mixture H2O --Py (4:1). The combined mother liquor and washings were evaporated to dryness. The residue was crystallized from aq methanol to give 1.6 g (62%) of 6-methyl cytidine.

reactant | Triethylamine | 100 mmol, 13.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1,2,4-triazole | 90 mmol, 6.22 g | N1N=CN=C1 | C2H3N3
reactant | phosphorous oxychloride | 20 mmol, 1.89 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2',3',5'-tri-O-Benzoyl-6-methyl uridine | 10 mmol, 5.7 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1C | C31H26N2O9
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-methyl cytidine | 1.6 g, 62% | CC1=CC(=NC(N1[C@H]1[C@H](O)[C@H](O)[C@@H](CO)O1)=O)N | C10H15N3O5
